US06649600B1
4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carboxylic acid
To a stirred mixture of 2.00 g (8.84 mmol) of bicyclo[2.2.2]octane-1,4-dicarboxylic acid monoethyl ester, 2.60 g (9.89 mmol) of 5,6-diamino-1,3-dipropyl-1H-pyrimidine-2,4-dione hydrochloride, 5.32 ml (38.1 mmol) of NEt3, and 30 ml anhydrous acetonitrile was added 3.76 g (9.89 mmol) of HATU. The reaction solution was stirred at rt for 1 h. The reaction mixture was concentrated in vacuo and combined with 40-ml EtOAc and 40 ml of 10% citric acid. The aqueous layer was separated and washed twice with 40-ml portions of EtOAc. The combined organic fractions were washed with 20-ml portions of sat'd NaHCO3 and brine and conc'd in vacuo. The resultant solid was combined, in a 200-ml round-bottom flask equipped with a condenser, with a mixture of 35 ml of i-PrOH and 35 ml of 1 N KOH (35 mmol) and heated to reflux. After heating for 1 hour, the reaction solution was conc'd in vacuo, taken up in 40 ml of water, and washed twice with 30-ml portions of CH2Cl2. The aqueous layer was acidified with conc'd HCl and the resultant precipitate collected by suction filtration to give 3.00 g (87% yield) of an off-white solid. (MH+=389.25)

reactant | bicyclo[2.2.2]octane-1,4-dicarboxylic acid monoethyl ester | 8.84 mmol, 2.00 g | C(C)OC(=O)C12CCC(CC1)(CC2)C(=O)O | C12H18O4
reactant | 5,6-diamino-1,3-dipropyl-1H-pyrimidine-2,4-dione hydrochloride | 9.89 mmol, 2.60 g | Cl.NC=1C(N(C(N(C1N)CCC)=O)CCC)=O
reactant | NEt3 | 38.1 mmol, 5.32 ml | CCN(CC)CC | C6H15N
reactant | HATU | 9.89 mmol, 3.76 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | KOH | 35 mmol, 1 N, 35 ml | [OH-].[K+]
solvent | water | 40 ml | O | H2O
solvent | i-PrOH | 35 ml | CC(C)O | C3H8O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carboxylic acid | 3.00 g, 87% yield | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)C(=O)O)=O)CCC | C20H28N4O4
